US05668162
[S-(R*,R*)]-2-[2-[-(1-Carboxy-3-methylbutylcarbamoyl)-5-methylphenyldisulfanyl]-4-methylbenzoylamino]-4-methyl-pentanoic acid
The general method of Preparation 20 was followed using [S-(R*,R*)]-2-[2-[2-(1-tert-butoxycarbonyl-3-methylbutylcarbamoyl)-5-methylphenyldisulfanyl]-4-methylbenzoylamino]-4-methyl-pentanoic acid tert-butyl ester (1.9 g, 2.8 mmol) in 20 mL dichloromethane, anisole (2.0 mL), and 10 mL trifluoroacetic acid. The crude product was recrystallized from methanol/water to yield 1.1 g of the title compound.

reactant | 2-[2-[2-(1-tert-butoxycarbonyl-3-methylbutylcarbamoyl)-5-methylphenyldisulfanyl]-4-methylbenzoylamino]-4-methyl-pentanoic acid tert-butyl ester | 2.8 mmol, 1.9 g | C(C)(C)(C)OC(C(CC(C)C)NC(C1=C(C=C(C=C1)C)SSC1=C(C=CC(=C1)C)C(NC(CC(C)C)C(=O)OC(C)(C)C)=O)=O)=O | C36H52N2O6S2
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | anisole | 2.0 mL | C1(=CC=CC=C1)OC | C7H8O
product | 2-[2-[-(1-Carboxy-3-methylbutylcarbamoyl)-5-methylphenyldisulfanyl]-4-methylbenzoylamino]-4-methyl-pentanoic acid | 1.1 g | C(=O)(O)C(CC(C)C)NC(=O)S(SC1=C(C(=O)NC(C(=O)O)CC(C)C)C=CC(=C1)C)C1=CC=CC(=C1)C | C28H38N2O6S2
